US06432964B1
7-Bromo-3,4-dihydrothieno[3,2-d]pyrimidin-4-thione (Compound 1e)
A solution of 7-bromo-4-chlorothieno[3,2-d]pyrimidine (see below for preparation) (2.0 g), sodium hydrosulfide hydrate (0.66 g) and N-methylpyrrolidinone (10 ml) was heated at 102° C. for 1 hour. Water (500 ml) and ethyl acetate (500 ml) were added and stirred for 1hour. The layers were separated and the aqueous phase extracted with ethyl acetate (300 ml). The combined organic extracts were washed with brine (300 ml), dried (MgSO4), treated with activated charcoal, then filtered through a silica pad and the solvent removed to give the title product, m.p. 328° C.

reactant | 7-bromo-4-chlorothieno[3,2-d]pyrimidine | 2.0 g | BrC1=CSC2=C1N=CN=C2Cl | C6H2BrClN2S
reactant | sodium hydrosulfide hydrate | 0.66 g | O.[SH-].[Na+]
reactant | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
reactant | Water | 500 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 7-Bromo-3,4-dihydrothieno[3,2-d]pyrimidin-4-thione | BrC1=CSC2=C1N=CNC2=S | C6H3BrN2S2
